US06372895B1
To a solution of 2-furaldehyde (43 mL) in hot glacial acetic acid (340 mL) was added rhodanine (68.4 g) and sodium acetate (128.4 g). The solution was refluxed for 0.5 hour and poured into water (2.6 L). The precipitate was collected by filtration and washed with water (1.4 L), ethanol (500 mL), and diethyl ether (200 mL). Recrystallization from acetone gave furfuryl rhodanine (97.4 g). The structure of the product was confirmed by NMR.

reactant | 2-furaldehyde | 43 mL | O1C(=CC=C1)C=O | C5H4O2
reactant | rhodanine | 68.4 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | sodium acetate | 128.4 g | C(C)(=O)[O-].[Na+]
reactant | water | 2.6 L | O | H2O
solvent | acetic acid | 340 mL | C(C)(=O)O | C2H4O2
product | furfuryl rhodanine | 97.4 g | C(C1=CC=CO1)N1C(SCC1=O)=S | C8H7NO2S2
